US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-(2-methanesulfonyloxyethyl)pyrrolidine (5.35 g) in N,N-dimethylformamide (54 ml) were added imidazole (1.18 g) and potassium t-butoxide (1.78 g) with stirring under ice-cooling. The mixture was stirred at 40°-45° C. for 40 minutes. The reaction mixture was poured into water (100 ml) and extracted with dichloromethane (80 ml). The extract was washed in turn with water (50 ml) and 10% aqueous sodium chloride (50 ml), dried over anhydrous magnesium sulfate and evaporated in vacuo to give (2R,4R)-1-allyloxycarbonyl-2-[2-(imidazol-1-yl)ethyl]-4-methanesulfonyloxypyrrolidine.

reactant | (2R,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-(2-methanesulfonyloxyethyl)pyrrolidine | 5.35 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCOS(=O)(=O)C | C12H21NO8S2
reactant | imidazole | 1.18 g | N1C=NC=C1 | C3H4N2
reactant | potassium t-butoxide | 1.78 g | CC(C)([O-])C.[K+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 54 ml | CN(C=O)C | C3H7NO
product | (2R,4R)-1-allyloxycarbonyl-2-[2-(imidazol-1-yl)ethyl]-4-methanesulfonyloxypyrrolidine | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C=NC=C1 | C14H21N3O5S
